* Ngspice тест: PWR / PWR_P5
* Номинальный режим +3,3В.
* VBAT_IN = 14,4В → U6 → VCC_5V → U7 (AMS1117-3.3) → VCC_3V3.
* Нагрузка 100 Ом на +3,3В (33 мА).
D_SS54 D(IS=4.35e-9 RS=0.05 BV=40)
D_SS14 D(IS=4.35e-9 RS=0.05 BV=40)
TVS24 D(IS=4.35e-9 RS=0.64 BV=24)
TVS5  D(IS=4.35e-9 RS=0.64 BV=5.6)
.INCLUDE spice/PWR.sub

* Порты: AC_REQ_OUT CANH CANL COND_RAW FB_M1_RAW FB_M2_RAW FB_M3_RAW FB_M4_RAW GND HEAT_FAN_PWM_CTL ILLUM_IN_RAW MOTOR_1_A MOTOR_1_B MOTOR_2_A MOTOR_2_B MOTOR_3_A MOTOR_3_B MOTOR_4_A MOTOR_4_B NTC_HEAT_W SOLAR_RAW V5_SENS VBAT_IN VBAT_PROT VCC_12V VCC_3V3 VCC_5V

* V1: Номинальная бортсеть
V1 VBAT_IN 0 DC 14.4

* R_L5V: Нагрузка на +5В (для работы U7)
R_L5V VCC_5V 0 200

* R_L3V3: Нагрузка на +3,3В ≈ 33 мА
R_L3V3 VCC_3V3 0 100
XPWR AC_REQ_OUT CANH CANL COND_RAW FB_M1_RAW FB_M2_RAW FB_M3_RAW FB_M4_RAW 0 HEAT_FAN_PWM_CTL ILLUM_IN_RAW MOTOR_1_A MOTOR_1_B MOTOR_2_A MOTOR_2_B MOTOR_3_A MOTOR_3_B MOTOR_4_A MOTOR_4_B NTC_HEAT_W SOLAR_RAW V5_SENS VBAT_IN VBAT_PROT VCC_12V VCC_3V3 VCC_5V PWR

.op
.control
run
print v(vcc_5v) v(vcc_3v3)
.endc
.end
